### PR TITLE
[Merged by Bors] - feat(NumberTheory/EulerProduct): general statements about Euler products

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds a folder `NumberTheory.EulerProduct` and within it the file `Basic.lean`, which contains some general results on Euler products (for functions from the naturals into a complete normed field, with suitable properties).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
This looks very nice!

File: Mathlib/NumberTheory/EulerProduct/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,170 @@
...
+    Tendsto (fun n : ℕ ↦ ∏ p in primesBelow n, ∑' e, f (p ^ e)) atTop (𝓝 (∑' n, f n)) := by
+  rw [Metric.tendsto_nhds]
+  intro ε εpos
+  simp only [Finset.mem_range, eventually_atTop, ge_iff_le]
+  obtain ⟨N₀, hN₀⟩ := norm_tsum_smoothNumbers_sub_tsum_lt hsum.of_norm hf₀ εpos
+  use N₀
+  convert hN₀ using 3 with m
+  rw [dist_eq_norm, norm_sub_rev]
+  congr 2
+  exact prod_primesBelow_tsum_eq_tsum_smoothNumbers hf₁ hmul hsum m
```
Comment (loefflerd) [inline Mathlib/NumberTheory/EulerProduct/Basic.lean:152]: tiny golf:
```suggestion
 rw [dist_eq_norm, norm_sub_rev, prod_primesBelow_tsum_eq_tsum_smoothNumbers hf₁ hmul hsum m]
```

File: Mathlib/NumberTheory/EulerProduct/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,170 @@
...
+
+open Nat in
+/-- We relate a finite product over primes to an infinite sum over smooth numbers. -/
+lemma summable_and_hasSum_smoothNumbers_prod_primesBelow_tsum
+    (hsum : ∀ {p : ℕ}, p.Prime → Summable (fun n : ℕ ↦ ‖f (p ^ n)‖)) (N : ℕ) :
+    Summable (fun m : N.smoothNumbers ↦ ‖f m‖) ∧
+      HasSum (fun m : N.smoothNumbers ↦ f m) (∏ p in N.primesBelow, ∑' (n : ℕ), f (p ^ n)) := by
+  induction' N with N ih
+  · rw [smoothNumbers_zero, primesBelow_zero, Finset.prod_empty]
+    exact ⟨Set.Finite.summable (Set.finite_singleton 1) (‖f ·‖), hf₁ ▸ hasSum_singleton 1 f⟩
```
Comment (loefflerd) [inline Mathlib/NumberTheory/EulerProduct/Basic.lean:68]:
```suggestion
    exact ⟨(Set.finite_singleton 1).summable (‖f ·‖), hf₁ ▸ hasSum_singleton 1 f⟩
```

File: Mathlib/NumberTheory/EulerProduct/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,170 @@
...
+                 equivProdNatSmoothNumbers_apply', map_prime_pow_mul hmul hN, norm_mul]
+        apply summable_mul_of_summable_norm (f := fun (x : ℕ) ↦ ‖f (N ^ x)‖)
+          (g := fun (x : N.smoothNumbers) ↦ ‖f x.val‖) <;>
+          simp_rw [norm_norm]
+        exacts [hsum hN, ih.1]
+      · simp_rw [Finset.prod_insert (not_mem_primesBelow N),
+                 ← (equivProdNatSmoothNumbers hN).hasSum_iff, Function.comp_def,
+                 equivProdNatSmoothNumbers_apply', map_prime_pow_mul hmul hN]
+        apply (hsum hN).of_norm.hasSum.mul ih.2
+        -- `exact summable_mul_of_summable_norm (hsum hN) ih.1` gives a time-out
```
Comment (loefflerd) [inline Mathlib/NumberTheory/EulerProduct/Basic.lean:82]: Oddly, it looks like 
```lean
have := summable_mul_of_summable_norm (hsum hN) ih.1
exact this
```
works fine. Maybe worth asking on zulip about this?

File: Mathlib/NumberTheory/EulerProduct/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,170 @@
...
+  exact prod_primesBelow_tsum_eq_tsum_smoothNumbers hf₁ hmul hsum m
+
+open Filter Nat in
+/-- The *Euler Product* for completely multiplicative functions.
+If `f : ℕ →*₀ F`, where `F` is a complete normed field
+and `‖f ·‖` is summable, then `∏' p : {p : ℕ | p.Prime}, (1 - f p)⁻¹ = ∑' n, f n`.
+Since there are no infinite products yet in Mathlib, we state it in the form of
+convergence of finite partial products. -/
+-- TODO: Change to use `∏'` once infinite products are in Mathlib
+theorem euler_product_multiplicative {f : ℕ →*₀ F} (hsum : Summable fun x => ‖f x‖) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/EulerProduct/Basic.lean:161]: I don't like the name here, since (to number theorists) "multiplicative" usually means weakly, not completely, multiplicative.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,170 @@
...
+An intermediate step is `EulerProduct.summable_and_hasSum_smoothNumbers_prod_primesBelow_tsum`
+(and its variant `EulerProduct.summable_and_hasSum_smoothNumbers_prod_primesBelow_tsum_geometric`),
+which relates the finite product over primes to the sum of `f n` over `N`-smooth `n`.
+
+## Tags
+
+Euler product
+-/
+
+variable {F : Type*} [NormedField F] [CompleteSpace F]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/EulerProduct/Basic.lean:30]: Do you actually use the fact that F is a field, for the general results on weakly (not completely) multiplicative functions? Would any commutative complete normed ring work? (I very much doubt the additional generality would be useful for anything, of course.)

File: Mathlib/NumberTheory/EulerProduct/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,170 @@
...
+import Mathlib.NumberTheory.SmoothNumbers
+import Mathlib.Analysis.SpecificLimits.Normed
+import Mathlib.Analysis.Normed.Field.InfiniteSum
+
+/-!
+# Euler Products
+
+The main results in this file are `EulerProduct.euler_product`, which says that
+if `f : ℕ → F` is norm-summable, where `F` is a complete normed field and `f` is
+multiplicative on coprime arguments with `f 0 = 0`, then
```
Comment (loefflerd) [inline Mathlib/NumberTheory/EulerProduct/Basic.lean:15]: There are already general definitions of weakly / strongly multiplicative functions in mathlib, in the `ArithmeticFunction` file. (I'm not saying we absolutely have to use those constructs here, of course, but we should be on guard against accidental duplication of existing functionality.)

File: Mathlib/NumberTheory/EulerProduct/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,170 @@
...
+-- The condition `f 1 = 1` is then equivalent to `f 1 ≠ 0`, but more convenient to use.
+variable (hf₁ : f 1 = 1) (hmul : ∀ {m n}, Nat.Coprime m n → f (m * n) = f m * f n)
+
+lemma Nat.map_prime_pow_mul {p : ℕ} (hp : p.Prime) (e : ℕ) {m : p.smoothNumbers} :
+    f (p ^ e * m) = f (p ^ e) * f m :=
+  hmul <| Nat.Coprime.pow_left _ <| hp.smoothNumbers_coprime <| Subtype.mem m
+
+namespace EulerProduct
+
+open Nat in
```
Comment (loefflerd) [inline Mathlib/NumberTheory/EulerProduct/Basic.lean:60]: Isn't it simpler to just open this globally throughout the file?

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:82]: See [here](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Proving.20a.20sum.20over.20smooth.20numbers.20is.20summable/near/400602151).

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:30]: It seems that `norm_mul` and `norm_pow` need a division ring (and it has to be commutative for other reasons). This is maybe an artifact of the way a norm is defined. Possibly one can get by with just using upper bounds instead of equalities; I'll check.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:161]: Which names for the two results would you suggest instead?

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 7 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:60]: Probably. I'll change that.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 2 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:68]: OK.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 1 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:152]: OK.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:15]: It probably makes sense to add versions where `f` is of type `Nat.ArithmeticFunction`. I don't think I've seen a notion of completely multiplicative arithmetic functions in that file, though.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,166 @@
...
+
+open Filter in
+/-- The *Euler Product* for multiplicative (on coprime arguments) functions.
+If `f : ℕ → F`, where `F` is a complete normed field, `f 0 = 0`,
+`f 1 = 1`, `f` is multiplicative on coprime arguments,
+and `‖f ·‖` is summable, then `∏' p : {p : ℕ | p.Prime}, ∑' e, f (p ^ e) = ∑' n, f n`.
+Since there are no infinite products yet in Mathlib, we state it in the form of
+convergence of finite partial products. -/
+-- TODO: Change to use `∏'` once infinite products are in Mathlib
+theorem euler_product (hf₀ : f 0 = 0) :
```
Comment (jcommelin) [inline Mathlib/NumberTheory/EulerProduct/Basic.lean:140]: Since "Euler product" is atomic, namingwise, I suggest to call this `eulerProduct`.
```suggestion
theorem eulerProduct (hf₀ : f 0 = 0) :
```
If you agree, please make the corresponding adaptation below.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:157]: Maybe one should become `eulerProduct_completely_multiplicative`?

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:81]: Oh well; another one for the "known bugs" file.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 6 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:15]: > I don't think I've seen a notion of completely multiplicative arithmetic functions in that file, though

That's covered by the general MonoidHom classes (as you observed); it's the weakly multiplicative ones which are slightly verbose to write out directly, so picking up and using an existing definition might well shorten the code. (I'm not sure I like the design of the `ArithmeticFunction` class much, so if you don't like it either, feel free not to use it; I just thought I'd mention that it's there.)

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:30]: > It seems that norm_mul and norm_pow need a division ring

That's kind of annoying – it would be nice if there was a type class for "ring with a _multiplicative_ [semi?]-norm" – but this is not the place to fix it. I definitely don't think it's worth adding extra work and complication to the proofs for no obvious application.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:15]: I was thinking of adding a version like `Nat.ArithmeticFunction.IsMultiplicative.eulerProduct` so that one could do `f_isMul.eulerProduct <proof of norm-summability>` (instead of refactoring what I have; I think it makes sense to have an unbundled version as well).

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 8 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:140]: Will do. (Breathing a sigh of relief that you didn't propose `tendsto_prod_primesBelow_tsum_nat_comp_pow_atTop_tsum_nat_of_multiplicative_of_summable_norm` or so :smile: )

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean]: OK.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 6 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:16]: I've added that now.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 5 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean]: It was not that painful (I had to add a line using `Summable.of_nonneg_of_le` in two places), so I have reduced the requirements to the target being a complete normed commutative ring for the general statement. It then made sense to re-arrange the material so that everything related to the general statement comes  before everything related to the statement for completely multiplicative functions. Unfortunately, this makes the diff fairly large.

File: Mathlib/NumberTheory/EulerProduct/Basic.lean (hunk 4 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean]: OK.

**Review by loefflerd — APPROVED** [review]
Thanks for making these changes – looks good to me now!

File: Mathlib/NumberTheory/EulerProduct/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,202 @@
...
+  refine summable_geometric_iff_norm_lt_1.mp ?_
+  simp_rw [← map_pow]
+  exact hsum.comp_injective <| Nat.pow_right_injective hp
+
+
+open scoped Topology
+
+open Nat BigOperators
+
+lemma Nat.map_prime_pow_mul {F : Type*} [CommSemiring F] {f : ℕ → F}
```
Comment (alexjbest) [inline Mathlib/NumberTheory/EulerProduct/Basic.lean:50]: This should probably move to another file?
Even the lemma above I'm not sure about, but seems more specialist so I'd be happy if there was no other good place for that one

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean:50]: OK, moving it into `Mathlib.NumberTheory.SmoothNumbers`.

Regarding the first lemma, `#find_home!` suggests `Mathlib.Analysis.SpecificLimits.Normed` (where `summable_geometric_iff_norm_lt_1` is stated, which is used in the proof). But I think it doesn't fit so well there, since it is about a monoid homomorphism.

Comment (alexjbest) [reply Mathlib/NumberTheory/EulerProduct/Basic.lean]: Yeah I figure anything making use of both additive and multiplicative structures of the naturals belongs in number theory somewhere anyway ;)

**Comment by alexjbest** [comment]
maintainer merge

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors merge
